US07723369B2
{4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester (137 mg, 0.25 mmol) was coupled with 2-cyclohexylvinylboronic acid (59 m g, 0.38 mmol) according to general procedure G to give {4-[2-[4-(2-cyclohexyl-vinyl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester.

reactant | {4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester | 0.25 mmol, 137 mg | COC(CNC1=CC=C(C=C1)N1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)Br)=O | C25H20BrCl2N3O2
reactant | 2-cyclohexylvinylboronic acid | 0.38 mmol | C1(CCCCC1)C=CB(O)O | C8H15BO2
product | {4-[2-[4-(2-cyclohexyl-vinyl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester | COC(CNC1=CC=C(C=C1)N1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)C=CC1CCCCC1)=O | C33H33Cl2N3O2
